US07932256B2
To a solution of (S)-1-cyclopropyl-2-methoxyethylcarbamate (4.36 g, 17.5 mmol) in EtOH (80 ml) and CHCl3 (3 mL) in a Parr bottle was added 4 N HCl in dioxane (5 mL) and Pd/C (476 mg, 10%, wet, Degussa type). The mixture was placed on a Parr shaker under H2 atm at 45 psi for 16 h. The reaction mixture was filtered through a pad of Celite and the filtrate was concentrated then reconcentrated from hexanes (2×) to afford (S)-1-cyclopropyl-2-methoxyethanamine hydrochloride (2.65 g, 100% yield) as a white solid: mp 190-192° C.; [α]25D+14.3 (c 0.446, MeOH); 1H NMR (400 MHz, CDCl3) δ 8.41 (s br, 3H), 3.68 (d, J=5.6 Hz, 2H), 3.39 (s, 3H), 2.64-2.60 (m, 1H), 1.20-1.13 (m, 1H), 0.71-0.58 (m, 3H), 0.32-0.28 (m, 1H); 13C NMR (100 MHz, CDCl3) δ 72.1, 59.2, 57.5, 10.7, 4.2, 4.1; LRMS (ESI m/e 231.2 [(2M+H)+, calcd for C12H27N2O2 231.2].

reactant | (S)-1-cyclopropyl-2-methoxyethylcarbamate | 17.5 mmol, 4.36 g | C1(CC1)[C@@H](COC)NC([O-])=O
reactant | HCl | 4 N | Cl | ClH
solvent | EtOH | 80 ml | CCO | C2H6O
solvent | CHCl3 | 3 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | Pd/C | 476 mg | [Pd] | Pd
product | (S)-1-cyclopropyl-2-methoxyethanamine hydrochloride | 2.65 g, 100% yield | Cl.C1(CC1)[C@@H](COC)N | InChI=1S/C6H13NO.ClH/c1-8-4-6(7)5-2-3-5;/h5-6H,2-4,7H2,1H3;1H/t6-;/m1./s1
